US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(ethoxycarbonylamino)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.120 g, 0.249 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase chromatography (Biotage SP4, C-18 12M+, 0-50% CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)-ethyl 4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamate hydrochloride (0.090 g, 79% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.23 (s, 1H), 7.28 (s, 1H), 4.11-4.06 (q, 2H), 3.78-3.75 (m, 1H), 3.53-3.49 (m, 1H), 3.40-3.43 (m, 1H), 3.27-3.18 (m, 2H), 2.09-2.06 (m, 1H), 1.81-1.69 (m, 2H), 1.60-1.54 (m, 1H), 1.19-1.16 (t, 3H). LCMS (APCI+) m/z 382, 384 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(ethoxycarbonylamino)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.249 mmol, 0.120 g | BrC=1C(=C2C(=NC1)NC=C2NC(=O)OCC)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H28BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-ethyl 4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamate hydrochloride | 0.090 g, 79% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(OCC)=O | InChI=1S/C15H20BrN5O2.ClH/c1-2-23-15(22)20-11-7-19-14-12(11)13(10(16)6-18-14)21-5-3-4-9(17)8-21;/h6-7,9H,2-5,8,17H2,1H3,(H,18,19)(H,20,22);1H/t9-;/m1./s1
